US04613596
N-[2-[[5-[(dimethylamino)methyl]furfuryl]thio]ethyl]-N'-(1,4-cyclohexadienyl-2-ethyl)-2-nitro-1,1-ethenediamine (AU/012)
24.54 grams of 2-[[5-[(dimethylamino)methyl]furfuryl]thio]ethylmethylsulphide are reacted with 41 grams of 2-nitro-N'-(1,4-cyclohexadienyl-2-ethyl)-1,1-ethenediamine at 80° C. for 3 hours. The mixture is cooled and the procedure described in Example 1 is followed. Spectrophotometric analyses confirm the structure of the compound obtained.

reactant | 2-[[5-[(dimethylamino)methyl]furfuryl]thio]ethylmethylsulphide | 24.54 grams | CN(C)CC1=CC=C(CSCCSC)O1 | C11H19NOS2
reactant | 2-nitro-N'-(1,4-cyclohexadienyl-2-ethyl)-1,1-ethenediamine | 41 grams | [N+](=O)([O-])C=C(N)NC(C)C1=CCC=CC1 | C10H15N3O2
product | N-[2-[[5-[(dimethylamino)methyl]furfuryl]thio]ethyl]-N'-(1,4-cyclohexadienyl-2-ethyl)-2-nitro-1,1-ethenediamine | CN(C)CC1=CC=C(CSCCNC(=C[N+](=O)[O-])NC(C)C2=CCC=CC2)O1 | C20H30N4O3S
